US05863936
In a 250 ml round-bottomed flask fitted with a Teflon stirrer and a reflux condenser, methyl 5-nitrobenzo[b]thiophene-2-carboxylate (10 g, 42.18 mmole) was dissolved in ethanol (100 ml). Tin (II) chloride dihydrate (5 equivalents, 47.60 g, 211 mmole) was added in one lot and the resulting slurry was reluxed for 18 hours while being stirred. The reaction mixture was cooled to room temperature, transferred to a 2000 ml Erlenmeyer flask, and carefully quenched with 5% sodium bicarbonate solution (aprroximately 700 ml) until effervescense was no longer detected. The resulting precipitate was filtered off and air-dried. The dried solid was dissolved in hot ethanol (500 ml), and filtered to remove undissolved material. The filtrate was evaporated in vacuo to give 8.564 g (96%) of methyl 5-aminobenzo[b]thiophene-2-carboxylate.

reactant | methyl 5-nitrobenzo[b]thiophene-2-carboxylate | 42.18 mmole, 10 g | [N+](=O)([O-])C1=CC2=C(SC(=C2)C(=O)OC)C=C1 | C10H7NO4S
reactant | Tin (II) chloride dihydrate | 211 mmole, 47.60 g, 5 equivalents | O.O.[Sn](Cl)Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl 5-aminobenzo[b]thiophene-2-carboxylate | 8.564 g, 96% | NC1=CC2=C(SC(=C2)C(=O)OC)C=C1 | C10H9NO2S
